US08283363B2
76.3 (2R)-1-benzyl-N-(4-(ethoxyamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide
The reaction was carried out in analogy to reaction step 20.3 of Example 20 by reacting 3-((R)-1-benzyl-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoic acid with O-ethylhydroxylamine hydrochloride using HATU (1.2 equivalents) as coupling reagent and DIPEA (6.8 equivalents) as base. ESI-MS [M+H]+=440.2

reactant | 3-((R)-1-benzyl-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoic acid | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(C(C(=O)O)O)CC1=CC=CC=C1 | C22H24N2O5
reactant | O-ethylhydroxylamine hydrochloride | Cl.C(C)ON
reactant | HATU | 1.2 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.8 equivalents | CCN(C(C)C)C(C)C | C8H19N
product | (2R)-1-benzyl-N-(4-(ethoxyamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(CC1=CC=CC=C1)C(C(=O)NOCC)O | C24H29N3O5
